US05506256
N-Methylmorpholine (3.4 ml) and 4-phenylbutyric acid (5.02 g) were added to L-proline benzyl ester hydrochloride (7.37 g) in dichloromethane (80 ml) under ice-cooling. The mixture was cooled to -25° C., added with DCC (6.31 g) and stirred at room temperature for 16 hours. The resultant dicyclohexylurea was filtered off and the filtrate was concentrated. The residue was purified by silica gel column chromatography (eluate: chloroform-methanol) to give 9.42 g of N-(4-phenylbutyryl)-L-proline benzyl ester.

reactant | N-Methylmorpholine | 3.4 ml | CN1CCOCC1 | C5H11NO
reactant | 4-phenylbutyric acid | 5.02 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | L-proline benzyl ester hydrochloride | 7.37 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | DCC | 6.31 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-(4-phenylbutyryl)-L-proline benzyl ester | 9.42 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CCCC1=CC=CC=C1)=O)=O | C22H25NO3
